US08530468B2
A mixture of tris(dibenzylideneacetone)dipalladium(0) (23 mg, 0.025 mmol) and 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene (29 mg, 0.05 mmol) in toluene (1.5 mL) was degassed under a stream of nitrogen gas with stirring for 10 minutes. 3,8-Dichloroisoquinoline (50 mg, 0.252 mmol), (R)-5-amino-3-(pyrrolidin-3-yloxy)pyrazine-2-carbonitrile (85 mg, 0.278 mmol) in DMF (0.5 mL) and caesium carbonate (165 mg, 0.505 mmol) were added and the mixture was degassed for a further 5 minutes, then heated at 130° C. for 30 minutes in a microwave reactor. Upon cooling, the mixture was diluted with methanol and isolated by SPE using a MP-TsOH cartridge, washing with methanol and then eluting with 2 M ammonia in methanol. The combined basic fractions were concentrated in vacuo. Preparative HPLC gave (R)-5-(8-chloroisoquinolin-3-ylamino)-3-(pyrrolidin-3-yloxy)pyrazine-2-carbonitrile (3.8 mg, 0.01 mmol, 4%). 1H NMR (d4-MeOD) δ 9.42 (d, 1H, J=0.9 Hz), 8.52 (s, 1H), 8.32 (d, 1H, J=5.3 Hz), 7.85 (d, 1H, J=8.3 Hz), 7.66-7.62 (m, 1H), 7.59-7.57 (m, 1H), 5.89-5.86 (m, 1H), 3.67-3.65 (m, 2H), 3.50-3.46 (m, 2H), 2.52-2.47 (m, 2H). LC-MS (2) Rt=2.65 min; m/z (ESI−) 365 (M−H).

reactant | 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene | 0.05 mmol, 29 mg | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
reactant | 3,8-Dichloroisoquinoline | 0.252 mmol, 50 mg | ClC=1N=CC2=C(C=CC=C2C1)Cl | C9H5Cl2N
reactant | (R)-5-amino-3-(pyrrolidin-3-yloxy)pyrazine-2-carbonitrile | 0.278 mmol, 85 mg | NC=1N=C(C(=NC1)C#N)O[C@H]1CNCC1 | C9H11N5O
reactant | caesium carbonate | 0.505 mmol, 165 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | TsOH | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | toluene | 1.5 mL | C1(=CC=CC=C1)C | C7H8
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.025 mmol, 23 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (R)-5-(8-chloroisoquinolin-3-ylamino)-3-(pyrrolidin-3-yloxy)pyrazine-2-carbonitrile | 0.01 mmol, 3.8 mg, 4% | ClC=1C=CC=C2C=C(N=CC12)NC=1N=C(C(=NC1)C#N)O[C@H]1CNCC1 | C18H15ClN6O
